US07148226B2
4-bromo-2-fluoro-1-isopropylbenzene
To a solution of 2-(4-bromo-2-fluorophenyl)propan-2-ol (7.6 g, 32.8 mmol) dissolved in anhydrous CH2Cl2 (300 mL) at 25° C. was added triethylsilane (7.8 mL, 49.1 mmol), followed by trifluoroacetic acid (25 mL, 328 mmol). The resulting solution was stirred at that temperature for 45 min. The solvent was removed in vacuo and the residue was purified by flash column chromatography (0–10% EtOAc in hexanes) to give the desired product (5.7 g, 80% yield).

reactant | 2-(4-bromo-2-fluorophenyl)propan-2-ol | 32.8 mmol, 7.6 g | BrC1=CC(=C(C=C1)C(C)(C)O)F | C9H10BrFO
reactant | triethylsilane | 49.1 mmol, 7.8 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 328 mmol, 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-fluoro-1-isopropylbenzene | 5.7 g, 80% yield | BrC1=CC(=C(C=C1)C(C)C)F | C9H10BrF
